US08304412B2
2-(4-Chlorophenyl)-4,5-dimethyl-1,3-oxazole 3-oxide
1.00 g (9.89 mmol) of diacetylmonoxime and 1.53 g (10.88 mmol) of 4-chlorobenzaldehyde are initially charged in 2 ml (34.94 mmol) of glacial acetic acid. With ice-cooling of the reaction mixture, hydrogen chloride gas is then introduced for 30 min. 10 ml of diethyl ether are then added to the reaction mixture. A precipitate is formed, which is filtered off with suction and washed twice with in each case 2 ml of diethyl ether. The precipitate is resuspended in about 5 ml of water and the suspension is made basic using ammonia. The mixture is then extracted four times with in each case 10 ml of dichloromethane. The combined organic phases are dried over magnesium sulfate and the solvent is removed on a rotary evaporator. The residue is used in the next reaction without further purification.

reactant | diacetylmonoxime | 9.89 mmol, 1.00 g | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | 4-chlorobenzaldehyde | 10.88 mmol, 1.53 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | acetic acid | 34.94 mmol, 2 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-(4-Chlorophenyl)-4,5-dimethyl-1,3-oxazole 3-oxide | ClC1=CC=C(C=C1)C=1OC(=C([N+]1[O-])C)C | C11H10ClNO2
